US05225402
1-[1-(3-Ethoxycarbonylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (0.5 g), aqueous ammonia (10 ml) and ammonium chloride (the effective amount as a catalyst) are dissolved in ethanol (10 ml) and the mixture is stirred at 110°-130° C. for 10 hours in an autoclave. Ethanol is distilled off under reduced pressure and the residue is extracted with methylene chloride. The organic layer is washed with water and saturated saline solution, dried with sodium sulfate and concentrated. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (solvent: methylene chloride:methanol=10:1) to give 1-[1-(3-carbamoylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (0.15 g).

reactant | 1-[1-(3-Ethoxycarbonylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 0.5 g | C(C)OC(=O)C=1C=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=CC1 | C24H26N2O4
reactant | ammonia | 10 ml | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-[1-(3-carbamoylbenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 0.15 g | C(N)(=O)C=1C=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=CC1 | C22H23N3O3
